US07429609B2
(5-Bromo-2-chlorothiophen-3-yl)methanol
To a solution of 3.0 g of (2-chlorothiophen-3-yl)methanol in 60 mL of dimethylformamide was added 3.59 g of N-bromosuccinimide at room temperature, and stirred at this temperature for 2 hours. Adding 10 mL of 10% sodium thiosulfate, and the resultant solution was diluted with ethyl acetate. The organic layer was washed successively with saturated aqueous ammonium chloride and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated, to afford 3.7 g of the title compound as a colorless oil.

reactant | (2-chlorothiophen-3-yl)methanol | 3.0 g | ClC=1SC=CC1CO | C5H5ClOS
reactant | N-bromosuccinimide | 3.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Bromo-2-chlorothiophen-3-yl)methanol | 3.7 g | BrC1=CC(=C(S1)Cl)CO | C5H4BrClOS
